US06423713B1
A mixture of 2-chloro-4-[3-(4-fluorophenyl)-1H-pyrazol-4-yl]pyrimidine (0.37 g; 0.0013 mol; prepared as set forth in Example A-299), 7 mL of 2-fluoroaniline and 2 drops of methanol was heated at 180° C. in a sealed tube for 16 hours. Excess amine was removed by vacuum distillation and the residue was treated with ethyl acetate to give 0.35 g of N-(2-fluorophenyl)-4-[3-(4-fluorophenyl)-1H-pyrazol-4-yl]-2-pyrimidinamine as a yellow solid (77%), mp: 239-240° C. Anal. Calc'd. for C19H13F2N5: C, 65.33; H, 3.75; N, 20.05. Found: C, 64.95; H, 3.80; N, 19.77.

reactant | 2-chloro-4-[3-(4-fluorophenyl)-1H-pyrazol-4-yl]pyrimidine | ClC1=NC=CC(=N1)C=1C(=NNC1)C1=CC=C(C=C1)F | C13H8ClFN4
reactant | 2-fluoroaniline | 7 mL | FC1=C(N)C=CC=C1 | C6H6FN
catalyst | methanol | 2 drops | CO | CH4O
product | N-(2-fluorophenyl)-4-[3-(4-fluorophenyl)-1H-pyrazol-4-yl]-2-pyrimidinamine | 0.35 g, 77% | FC1=C(C=CC=C1)NC1=NC=CC(=N1)C=1C(=NNC1)C1=CC=C(C=C1)F | C19H13F2N5
